US05696299
Interesterification was carried out by using 3 g of Lipase QL, 50 g of (R,S)-1-(2-bromophenyl)ethanol, and 150 g of tribehen under the same conditions as in Example 3 at 105° C. for a period of 20 hours. The water content of the reaction system was 0.01% by weight, and 90% of the lipase particles had a particle size of 30 to 50 μm. Gas chromatography of the reaction mixture revealed that 45 mol % of (R,S)-1-(2-bromophenyl)ethanol had been converted to 1-(2-bromophenyl)ethyl behenate. The reaction mixture was treated in the same manner as in Example 3 and subjected to simple distillation at 110° C. and 5 mmHg to give (S)-(-)-1-(2-bromophenyl)ethanol (yield: 82%; chemical purity: 99.9%; optical purity: 81.5% ee). On the other hand, the residue, i.e., (R)-(+)-1-(2-bromophenyl)ethanol behenic acid ester was acid-hydrolyzed in the same manner as in Example 2 to obtain (R)-(+)-1-(2-bromophenyl)ethanol (yield: 75.6%; chemical purity: 99.8%; optical purity: 99.0% ee).

reactant | 1-(2-bromophenyl)ethyl behenate | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OC(C)C1=C(C=CC=C1)Br | C30H51BrO2
solvent | water | O | H2O
product | (S)-(-)-1-(2-bromophenyl)ethanol | yield: 82% | BrC1=C(C=CC=C1)[C@H](C)O | C8H9BrO
